US07476741B2
A mixture of 5-bromoveratraldehyde (100 mg, 0.41 mmol) and (triphenylphosphoranylidene)acetaldehyde (137 mg, 0.45 mmol) in dry benzene (2.5 ml) was refluxed for 9 h and the solvent was removed. The crude product was passed through a short silica gel column (bond-elute) (eluents: 10% ethyl acetate in hexane), giving 3-(3-bromo-4,5-dimethoxy-phenyl)-propenal (50 mg, 45%). 1H NMR (CDCl3): 9.68 (d, J=7.6 Hz, 1H), 7.36 (d, J =1.8 Hz, 1H), 7.34 (d, J=15.8 Hz, 1H), 7.03 (d, J=1.9 Hz, 1H), 6.62 (dd, J=7.6, 16.0 Hz, 1H), 3.913 (s, 3H), 3.907 (s, 3H) (the sample contained trace amount of starting material).

reactant | 5-bromoveratraldehyde | 0.41 mmol, 100 mg | BrC=1C(=C(C=C(C=O)C1)OC)OC | C9H9BrO3
reactant | (triphenylphosphoranylidene)acetaldehyde | 0.45 mmol, 137 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
solvent | benzene | 2.5 ml | C1=CC=CC=C1 | C6H6
product | 3-(3-bromo-4,5-dimethoxy-phenyl)-propenal | 50 mg, 45% | BrC=1C=C(C=C(C1OC)OC)C=CC=O | C11H11BrO3
